US04472591
Reaction of 0.85/0.3/1.0 Me3SiCl/MeSiHCl2 /CH2 =CHSiMeCl2
The procedure of Example 2 was followed using a 2 l flask, 106.39 g (2.72 mols) of K metal, 807.1 g of THF, 69.7 g (0.638 mol) of Me3SiCl, 25.9 g (0.225 mol) of MeSiHCl2, and 105.9 g (0.751 mol) of CH2 =CHSiMeCl2. Workup yielded 81.3 g of nonvolatile polymer, b.p. greater than 65°/0.5 mm. Pyrolysis of this polymer to 1200° yielded 51.7% of SiC composition. This examples shows the effectiveness of MeSiHCl2 in increasing SiC yield when compared to the use of Me2SiCl2 in Example D.

reactant | MeSiHCl2 | C[SiH](Cl)Cl | CH4Cl2Si
reactant | Me2SiCl2 | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
product | Me3SiCl MeSiHCl2 | [Si](C)(C)(C)Cl.C[SiH](Cl)Cl | InChI=1S/C3H9ClSi.CH4Cl2Si/c1-5(2,3)4;1-4(2)3/h1-3H3;4H,1H3
